US05256781
The preparation of 4'-[[(2,6-dichloro-4-quinazolinyl)amino]methyl][1,1'-biphenyl]-2-carboxylic acid.
A mixture of sodium acetate (0.56 g), 2,4,6-trichloroquinazoline (0.40 g) and 4'-aminomethyl (1,1'-biphenyl)-2-carboxylic acid (0.43 g) was stirred at room temperature in 10 mL of THF for 5 days. All solvents were removed by evaporation and the resulting residue was partitioned between ethyl acetate and brine. The ethyl acetate fraction was dried over anhydrous magnesium sulfate, filtered and evaporated. The crude material was purified using silica gel chromatography to yield 0.15 g (21%) of an off white solid (m.p.=210°-240° C.): 1H NMR (DMSO-d6, 400 MHz) δ 9.45 (t, J=6.2 Hz, 1H), 8.52 (d, J=2.3 Hz, 1H), 7.83 (dd, J=2.3, 8.9 Hz, 1H), 7.66 (m, 2H), 7.49 (m, 1H), 7.35 (m, 7H), 4.77 (d, J=5.2 Hz); negative FAB MS m/e 422(M-H). Anal. calcd for C22H15Cl2N3O2 : C, 62.28; H,3.56; N, 9.90. Found: C, 62.44; H, 3.52; N, 9.95.

reactant | sodium acetate | 0.56 g | C(C)(=O)[O-].[Na+]
reactant | 2,4,6-trichloroquinazoline | 0.40 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)Cl | C8H3Cl3N2
reactant | 4'-aminomethyl (1,1'-biphenyl)-2-carboxylic acid | 0.43 g | NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C14H13NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4'-[[(2,6-dichloro-4-quinazolinyl)amino]methyl][1,1'-biphenyl]-2-carboxylic acid | ClC1=NC2=CC=C(C=C2C(=N1)NCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)Cl | C22H15Cl2N3O2
